* C:\Users\ilike\LTspice-projects\MOSFET_Op_amp.asc
* Generated by LTspice 24.1.10 for Windows.
M3 N005 Vin N008 0 NMOS
M4 N002 N007 N008 0 NMOS
I1 N008 0 100µA
V1 Vdd 0 9V
V2 Vin N007 1
M1 Vdd Vin N010 N009 NMOS
R4 N010 0 1k
C1 N006 N002 4.4pf
M2 Vdd N002 N006 N001 NMOS
I2 N006 0 100µA
R1 NC_01 NC_02 500k
C2 NC_03 NC_04 C
M5 Vdd N005 N005 N003 PMOS
M6 Vdd N005 N002 N004 PMOS
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ilike\AppData\Local\LTspice\lib\cmp\standard.mos
.dc V2 0 5 0.01
.backanno
.end
